US07709492B2
To t-butyl 4-(4-cyanophenyl)piperazine-1-carboxylate (2.30 g, 8.0 mmol, prepared by reaction of the aryl-piperazine with Boc-anhydride) in toluene (20 ml) add DIBAH (diisobutylaluminum hydride) (1.0M in toluene, 12.8 ml, 12.8 mmol). Heat at 50° C. 1.5 h, allow to cool, add MeOH (10 ml) and water (10 ml). Filter and concentrate. Chromatograph the residue over silica to obtain the Boc-piperazine as a yellow solid.

reactant | t-butyl 4-(4-cyanophenyl)piperazine-1-carboxylate | C(#N)C1=CC=C(C=C1)N1CCN(CC1)C(=O)OC(C)(C)C | C16H21N3O2
reactant | DIBAH | 12.8 mmol, 1.0M, 12.8 ml | [H-].C(C(C)C)[Al+]CC(C)C
reactant | MeOH | 10 ml | CO | CH4O
reactant | water | 10 ml | O | H2O
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | Boc-piperazine | C(=O)(OC(C)(C)C)N1CCNCC1 | C9H18N2O2
